US08703771B2
Step A: 1-Oxo-2,3-dihydro-1H-inden-5-carbonitrile
5-Bromo-2,3-dihydro-1H-inden-1-one (21.1 g, 100 mmol) and cupric cyanide (17.9 g, 200 mmol) were mixed in 200 ml of dimethylformamide and stirred overnight at 140° C. After the solution was cooled down to room temperature, 500 ml of ethyl acetate was added and the precipitate was removed by filteration using kieselguhr. The solid was rinsed with ethyl acetate for several times. The pooled filtrates were washed with 1 N hydrochloric acid twice and then with brine for 3 times, dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude product was purified on silica gel, eluting with ethyl acetate/hexanes (1:2), to obtain 7.9 g of the desired compound (50% yield). MS (M+1)=158.05.

reactant | 5-Bromo-2,3-dihydro-1H-inden-1-one | 100 mmol, 21.1 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-Oxo-2,3-dihydro-1H-inden-5-carbonitrile | 7.9 g, 50% yield | O=C1CCC2=CC(=CC=C12)C#N | C10H7NO
